US07875639B2
5,6-Difluoro-3-(2-methoxyethyl)-3H-benzothiazol-2-ylidene amine hydrobromide
Commercially available 5,6-difluoro-benzothiazol-2-ylamine and 2-bromoethyl methyl ether were processed as described for Example 46A to afford the title compound. MS (ESI+) m/z 245 (M+H)+.

reactant | 5,6-difluoro-benzothiazol-2-ylamine | FC=1C(=CC2=C(N=C(S2)N)C1)F | C7H4F2N2S
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 5,6-Difluoro-3-(2-methoxyethyl)-3H-benzothiazol-2-ylidene amine hydrobromide | Br.FC=1C(=CC2=C(N(C(S2)=N)CCOC)C1)F | InChI=1S/C10H10F2N2OS.BrH/c1-15-3-2-14-8-4-6(11)7(12)5-9(8)16-10(14)13;/h4-5,13H,2-3H2,1H3;1H
